US04826866
3-[(4-Bromo-2,6-dimethylphenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester
A mixture of 14.6 g (0.06 mole) of 4-(4-bromo-2,6-dimethylphenyl)-3-thiosemicarbazide and 9.93 g (0.06 mole) of ethyl 2-chloroacetoacetate in 60 mL of absolute ethanol was stirred under nitrogen atmosphere for 2 hr, treated with 30 mL of 2N ethanolic hydrogen chloride and heated at reflux until the reaction mixture cleared (3 hr). The reaction mixture was filtered hot then concentrated in vacuo to give an orange solid which, when triturated with warm benzene/ligroin (50:50) and filtered gave 10.8 g of slightly orange crystalline product. The filtrate upon standing for ~16 hr gave an additional 4.4 g of yellow crystals which became white when washed with warm acetone. The 2 fractions were combined and recrystallized from benzene/ligroin to give 10.35 g of fine white crystalline rods, mp 171°-199° C. (with degassing). An NMR analysis showed the solid to be a salt with some solvent present; mass spectra confirmed the presence of hydrogen chloride. After drying at 82° C. under high vacuum, there was left 9.56 g, mp 168°-196° C. A broad melting point range suggested that it may be a mixture of free base and salt; therefore, it was dissolved in methanol/water along with other reaction mixture material, made basic with 3N sodium hydroxide and extracted with 5×60 mL of methylene chloride. The extracts were combined, washed with water, dried over magnesium sulfate and concentrated in vacuo to give a dark yellow solid. Recrystallization from benzene/ligroin then from benzene gave 10.7 g of white granular powder, mp 184°-185° C.

reactant | 4-(4-bromo-2,6-dimethylphenyl)-3-thiosemicarbazide | 0.06 mole, 14.6 g | BrC1=CC(=C(C(=C1)C)NC(NN)=S)C | C9H12BrN3S
reactant | ethyl 2-chloroacetoacetate | 0.06 mole, 9.93 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 30 mL | Cl | ClH
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 3-[(4-Bromo-2,6-dimethylphenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 4.4 g | BrC1=CC(=C(C(=C1)C)NC1=NNC(=C1C(=O)OCC)C)C | C15H18BrN3O2
